US08084611B2
(1) 2-Benzyloxy-5-bromo-pyrimidine
Potassium tert-butoxide (6.96 g) was added to a solution of 5-bromo-2-chloro-pyrimidine (10 g) and benzyl alcohol (6.4 ml) in N,N-dimethylformamide (140 ml) and the mixture was stirred at room temperature for 1.5 hours. Water was added to the mixture and the precipitated solid was collected by filtration, washed with methanol, dried to give the titled compound (10.6 g). MS (m/z): 265/267 [M+H]+.

reactant | Potassium tert-butoxide | 6.96 g | CC(C)([O-])C.[K+]
reactant | 5-bromo-2-chloro-pyrimidine | 10 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | benzyl alcohol | 6.4 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 140 ml | CN(C=O)C | C3H7NO
product | 2-Benzyloxy-5-bromo-pyrimidine | 10.6 g | C(C1=CC=CC=C1)OC1=NC=C(C=N1)Br | C11H9BrN2O
